US07923450B2
c) 1-(4-Isothiocyanato-2-methoxy-phenyl)-4-methyl-1H-imidazole
A solution of 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine (203 mg, 1 mmol) and of 1,1′-thiocarbonyldi-2(1H)-pyridone (263 mg, 1.1 mmol) in dichloromethane (10 mL) was stirred at room temperature over night to yield an orange solution. The reaction was concentrated under reduced pressure to ¼ of its volume and directly purified on silica gel using dichloromethane/methanol (95:5 v/v) as eluent to yield the title compound (230 mg, 94%) as a yellow oil, which solidifies on standing. MS ISP (m/e): 246.3 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.67 (s, 1H), 7.21 (d, 1H), 6.91-6.86 (m, 3H), 3.86 (s, 3H), 2.29 (s, 3H).

reactant | 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine | 1 mmol, 203 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)N | C11H13N3O
reactant | 1,1′-thiocarbonyldi-2(1H)-pyridone | 1.1 mmol, 263 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(4-Isothiocyanato-2-methoxy-phenyl)-4-methyl-1H-imidazole | 230 mg, 94% | N(=C=S)C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C12H11N3OS
